US07074817B2
6-(4-Trifluoromethylphenyl)-1-ethyl-1H-indole
Following the procedure described in Step 2 of Example 2, 6-bromo-1-ethyl-1H-indole (0.400 g , 1.78 mmol), was coupled to 4-trifluoromethylbenzene boronic acid (0.348 g, 1.83 mmol), using tetrakis(triphenylphosphine)palladium (0.0668 g, 0.0578 mmol), and sodium carbonate (0.769 g, 7.26 mmol) in water (3.6 mL), ethanol (1.5 mL), and toluene (8 mL). Purification by flash chromatography using hexane as an eluant yielded the title compound as a yellow oil (0.289 g, 56%). 1HNMR (300 MHz, DMSO-d6): δ 7.95 (d, 2H, J=7.7 Hz), 7.9 (s, 1H), 7.8 (d, 2H, J=7.7 Hz), 7.65 (d, 1H, J=7.7 Hz), 7.5 (d, 1H, J=1.5 Hz), 7.45 (d, 1H, J=7.7 Hz), 6.45 (d, 1H, J=2.3 Hz), 4.3 (q, 2H, J=6.9 Hz) and 1.4 ppm (t, 3H, J=6.9 Hz).

reactant | 6-bromo-1-ethyl-1H-indole | 1.78 mmol, 0.400 g | BrC1=CC=C2C=CN(C2=C1)CC | C10H10BrN
reactant | 4-trifluoromethylbenzene boronic acid | 1.83 mmol, 0.348 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 7.26 mmol, 0.769 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 3.6 mL | O | H2O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.0578 mmol, 0.0668 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-Trifluoromethylphenyl)-1-ethyl-1H-indole | 0.289 g, 56% | FC(C1=CC=C(C=C1)C1=CC=C2C=CN(C2=C1)CC)(F)F | C17H14F3N
